US04954518
34.7 g of 4-phenoxy-3-trifluoromethylsulfonylaminoanisole and 31 g of ethanethiol were dissolved in 350 ml of methylene chloride. The resulting solution was then ice-cooled. Thereto was added 27 g of aluminum chloride at the same temperature in 30 minutes. Stirring was conducted for 30 minutes at 5°-10° C. The reaction mixture was poured into 300 ml of ice water and the resulting organic layer was separated. The organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, dried with anhydrous magnesium sulfate, and subjected to distillation under reduced pressure to remove the solvent. The resulting crystal was recrystallized from toluene to obtain 28.5 g (yield: 85.6%) of 4-phenoxy-3-trifluoromethylsulfonylaminophenol having a melting point of 97°-99° C.

reactant | 4-phenoxy-3-trifluoromethylsulfonylaminoanisole | 34.7 g | O(C1=CC=CC=C1)C1=C(C=C(C=C1)OC)NS(=O)(=O)C(F)(F)F | C14H12F3NO4S
reactant | ethanethiol | 31 g | C(C)S | C2H6S
reactant | aluminum chloride | 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 4-phenoxy-3-trifluoromethylsulfonylaminophenol | 28.5 g, yield: 85.6% | O(C1=CC=CC=C1)C1=C(C=C(C=C1)O)NS(=O)(=O)C(F)(F)F | C13H10F3NO4S
